US05443970
A mixture of 3-acetyl-6-bromomethyl-4-hydroxypyran-2-one (26 parts) and 90% sulphuric acid (73.4 parts) was heated at 125°-130° C. with rapid agitation for 20 minutes, then poured onto ice. The product was filtered off and washed with water (2×100 parts) and dried to give 6-bromomethyl-4-hydroxypyran-2-one (25.0 parts). The crude product was recrystallised from boiling chloroform to give 6-bromomethyl-4-hydroxy pyran-2-one (12.8 parts, 60%) melting point 77°-78° C.

reactant | 3-acetyl-6-bromomethyl-4-hydroxypyran-2-one | C(C)(=O)C=1C(OC(=CC1O)CBr)=O | C8H7BrO4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-bromomethyl-4-hydroxypyran-2-one | BrCC1=CC(=CC(O1)=O)O | C6H5BrO3
